US05807846
2,6-Diisopropylbenzyl alcohol
A solution of 2,6-diisopropylbenzoyl chloride (11.65 g, 0.052 mol), in ethyl ether (100 mL) was added over 20 minutes to a suspension of lithium aluminum hydride (1.9 g, 0.050 mol) in ethyl ether (200 mL) keeping the temperature below -15° C. The reaction mixture was allowed to slowly warm to room temperature and was then cooled to zero. The reaction was quenched by careful addition of sodium bisulfate solution until no further reaction was evident. The mixture was diluted with ether (200 mL), the ether washed with brine. The grey goo (lithium/aluminum salts) was washed several times with ether, the ether washes were combined, dried (magnesium sulfate), filtered, and concentrated to an oil which solidified, 10.67 g.

reactant | 2,6-diisopropylbenzoyl chloride | 0.052 mol, 11.65 g | C(C)(C)C1=C(C(=O)Cl)C(=CC=C1)C(C)C | C13H17ClO
reactant | lithium aluminum hydride | 0.050 mol, 1.9 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | ethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | ethyl ether | 200 mL | C(C)OCC | C4H10O
product | 2,6-Diisopropylbenzyl alcohol | C(C)(C)C1=C(CO)C(=CC=C1)C(C)C | C13H20O
